US04001249
A process as claimed in claim 8, wherein N-carbomethoxy-8-azabicyclo (3,2,1) octan-3-one is reacted with diisobutyl-aluminumhydride in benzene and at room temperature, to produce tropine.

reactant | N-carbomethoxy-8-azabicyclo (3,2,1) octan-3-one | C(=O)(OC)N1C2CC(CC1CC2)=O | C9H13NO3
reactant | diisobutyl-aluminumhydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | tropine | CN1C2CCC1CC(C2)O | C8H15NO
